US04584290
To a solution of benzhydryl 7-amino-3-[2-(3-pyridyl)thiovinyl]-3-cephem-4-carboxylate (trans isomer) (3 g) in tetrahydrofuran (30 ml) containing monotrimethylsilyl acetamide (5 g) was added 2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetyl chloride hydrochloride (syn isomer) (1.8 g) under stirring at -10°-0° C. The reaction mixture was stirred at the same temperature for 30 minutes. After addition of ethyl acetate (150 ml) and a small amount of water, the separated organic layer was washed in turn with saturated aqueous sodium bicarbonate and brine, dried over magnesium sulfate. The solvent was evaporated in vacuo to give benzhydryl 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-[2-(3-pyridyl)thiovinyl]-3-cephem-4-carboxylate (syn isomer) (trans isomer) (3.1 g).

reactant | benzhydryl 7-amino-3-[2-(3-pyridyl)thiovinyl]-3-cephem-4-carboxylate | 3 g | NC1[C@@H]2N(C(=C(CS2)C=CSC=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H23N3O3S2
reactant | 2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetyl chloride hydrochloride | 1.8 g | Cl.C(C)ON=C(C(=O)Cl)C1=NSC(=N1)N
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | benzhydryl 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-[2-(3-pyridyl)thiovinyl]-3-cephem-4-carboxylate | 3.1 g | C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CSC=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C1=NSC(=N1)N | C33H29N7O5S3
